US07932284B2
Stir a solution of 5-(6-Amino-1-isopropyl-1H-indol-3-yl)-1-ethyl-1H-pyrazole-3-carbonitrile (0.126 g, 0.393 mmol), pyridine (0.062 g, 0.786 mmol) and methanesulfonyl chloride (0.068 g, 0.590 mmol) in methylene chloride (3 mL) at room temperature for 2.5 h. After this time, Purify the reaction directly by chromatography (silica, methylene chloride to 1:9 ethyl acetate/methylene chloride) then freeze-dried from acetonitrile/water to afford N-[3-(5-Cyano-2-ethyl-2H-pyrazol-3-yl)-1-isopropyl-1H-indol-6-yl]-methanesulfonamide (0.132 g, 90%) as alight purple solid: mp 144-145° C.; 1H NMR (500 MHz, DMSO-d0.6 δ0.60 (s, 1H), 7.84 (s, 1H), 7.50 (d, J=9.0 Hz, 1H), 7.45 (d, J=2.0 Hz, 1H), 7.11 (s, 1H), 7.04 (dd, J=8.5, 1.5 Hz, 1H), 4.73 (m, 1H), 4.27 (q, J=7.0 Hz, 21H), 2.96 (s, 3H), 1.52 (d, J=6.5 Hz, 6H), 1.35 (t, J=7.0 Hz, 3H) LCMS (Method 4)>99%, 6.96 min, m/z 372 [M+H]+.

reactant | 5-(6-Amino-1-isopropyl-1H-indol-3-yl)-1-ethyl-1H-pyrazole-3-carbonitrile | 0.393 mmol, 0.126 g | NC1=CC=C2C(=CN(C2=C1)C(C)C)C1=CC(=NN1CC)C#N | C17H19N5
reactant | pyridine | 0.786 mmol, 0.062 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.590 mmol, 0.068 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(5-Cyano-2-ethyl-2H-pyrazol-3-yl)-1-isopropyl-1H-indol-6-yl]-methanesulfonamide | 0.132 g, 90% | C(#N)C=1C=C(N(N1)CC)C1=CN(C2=CC(=CC=C12)NS(=O)(=O)C)C(C)C | C18H21N5O2S
